US07977344B2
6-Amino-2-butoxy-9-(tetrahydro-2H-pyran-3-ylmethyl)-7,9-dihydro-8H-Purin-8-one
2-Butoxy-8-methoxy-9-(tetrahydro-2H-pyran-3-ylmethyl)-9H-purin-6-amine (105 mg) was dissolved in methanol (2 mL) and treated with 4N hydrogen chloride in 1,4-dioxane (1 mL). The reaction mixture was stirred for 4 hours and stripped to dryness. Water (2 mL) and methanol (15 mL) were added to the residue and then neutralised by the addition of 2N sodium hydroxide solution. The above was stripped to near dryness (small volume of water remaining) and the solid thus obtained was filtered off under suction (transferred and washed with water (2 mL, 3 times)). The solid was dried under suction before being dried further in vacuo to afford the title compound as a white solid (71.5 mg).

reactant | 2-Butoxy-8-methoxy-9-(tetrahydro-2H-pyran-3-ylmethyl)-9H-purin-6-amine | 105 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1COCCC1)OC)N | C16H25N5O3
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | Water | 2 mL | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 15 mL | CO | CH4O
product | 6-Amino-2-butoxy-9-(tetrahydro-2H-pyran-3-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 71.5 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1COCCC1)=O | C15H23N5O3
